US08445490B2
To a suspension of methyl 4-(4-(8-aminooctylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate (0.1 g) in acetone (6 mL) was added potassium carbonate (0.073 g) in water (6.00 mL). The mixture was heated to reflux overnight. After cooling to r.t., the reaction solution was acidified with 1N HCl to pH=3. All solvents were removed under vacuum. The residue was purified by prep. HPLC to give 4-(4-(8-aminooctylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoic acid (38 mg).

reactant | methyl 4-(4-(8-aminooctylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate | 0.1 g | NCCCCCCCCNC1=NC(=NC(=N1)OCC(F)(F)F)NC1=CC=C(C(=O)OC)C=C1 | C21H29F3N6O3
reactant | potassium carbonate | 0.073 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | acetone | 6 mL | CC(=O)C | C3H6O
solvent | water | 6.00 mL | O | H2O
product | 4-(4-(8-aminooctylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoic acid | 38 mg | NCCCCCCCCNC1=NC(=NC(=N1)OCC(F)(F)F)NC1=CC=C(C(=O)O)C=C1 | C20H27F3N6O3
